US04698352
In 4 ml of N,N-dimethylformamide was dissolved 0.24 g of methyl 6-(4-piperidinyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinate, and 0.17 g of isopropyl bromide and 0.06 g of potassium carbonate were added to the solution, after which they were reacted at 60° C. for 6 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was dissolved in a mixture of 20 ml of chloroform and 20 ml of water. The organic layer was separated, washed twice with 20-ml portions of water, and dried with anhydrous sodium sulfate. Then, the solvent was removed by distillation under reduced pressure, and the oily substance thus obtained was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (20:1 by volume) mixture). The fraction containing the objective substance was concentrated, and to the oily substance thus obtained was added 5 ml of 6N hydrochloric acid, and they were refluxed for 2 hours. The solvent was removed by distillation under reduced pressure to obtain 0.11 g of 1-(4-hydroxy-2-methylphenyl)-6-(1-isopropyl-4-piperidinyl)-4-oxo-1,4-dihydronicotinic acid hydrochloride having a melting point of 195.5°-200.5° C.

reactant | methyl 6-(4-piperidinyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinate | 0.24 g | N1CCC(CC1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=C(C=C(C=C1)O)C | C19H22N2O4
reactant | isopropyl bromide | 0.17 g | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 0.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(4-hydroxy-2-methylphenyl)-6-(1-isopropyl-4-piperidinyl)-4-oxo-1,4-dihydronicotinic acid hydrochloride | 0.11 g | Cl.OC1=CC(=C(C=C1)N1C=C(C(=O)O)C(C=C1C1CCN(CC1)C(C)C)=O)C | InChI=1S/C21H26N2O4.ClH/c1-13(2)22-8-6-15(7-9-22)19-11-20(25)17(21(26)27)12-23(19)18-5-4-16(24)10-14(18)3;/h4-5,10-13,15,24H,6-9H2,1-3H3,(H,26,27);1H
